US07011838B2
Using 0.49 g of benzylmalononitrile, 15 ml of N,N-dimethylformamide, 0.14 g of sodium hydride (60% in oil), and 0.33 g of 1,3-dichloropropene, and according to the process described in the Production Example 1, there was obtained 0.25 g of 2-benzyl-2-((E)-3-chloro-2-propenyl)malononitrile (the present compound (60)) as high-polar compound.

reactant | benzylmalononitrile | 0.49 g | C(C1=CC=CC=C1)C(C#N)C#N | C10H8N2
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | 1,3-dichloropropene | 0.33 g | ClC=CCCl | C3H4Cl2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-benzyl-2-((E)-3-chloro-2-propenyl)malononitrile | 0.25 g, Yield: 36% | C(C1=CC=CC=C1)C(C#N)(C#N)C\C=C\Cl | C13H11ClN2
